Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1]([c:2]1[cH:26][cH:25][c:5]([CH2:6][N:7]([CH:8]2[CH:9]([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]2)[S:15](=[O:16])(=[O:17])[c:18]2[cH:19][cH:20][c:21]([Cl:22])[cH:23][cH:24]2)[cH:4][cH:3]1)=[O:27].[CH3:28][C@@H:29]([NH2:30])[CH2:31][OH:32]>>[C:1]([c:2]1[cH:3][cH:4][c:5]([CH2:6][N:7]([CH:8]2[CH:9]([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]2)[S:15](=[O:16])(=[O:17])[c:18]2[cH:19][cH:20][c:21]([Cl:22])[cH:23][cH:24]2)[cH:25][cH:26]1)(=[O:27])[NH:30][C@H:29]([CH3:28])[CH2:31][OH:32],[OH:101][C:1]([c:2]1[cH:3][cH:4][c:5]([CH2:6][N:7]([CH:8]2[CH:9]([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]2)[S:15](=[O:16])(=[O:17])[c:18]2[cH:19][cH:20][c:21]([Cl:22])[cH:23][cH:24]2)[cH:25][cH:26]1)=[O:27].[CH3:28][C@@H:29]([NH2:30])[CH2:31][OH:32].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[cH:3][cH:4][c:5]([CH2:6][N:7]([CH:8]2[CH:9]([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]2)[S:15](=[O:16])(=[O:17])[c:18]2[cH:19][cH:20][c:21]([Cl:22])[cH:23][cH:24]2)[cH:25][cH:26]1)(=[O:27])[NH:30][C@H:29]([CH3:28])[CH2:31][OH:32],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (30, 1), ([1, 27], 27), (303, 30.1), ([30.1, 30], 30), (27, [27, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[CH3:1].[CH3:2][O:3][c:4]1[cH:5][cH:6][c:7](-[c:8]2[cH:9][c:10](=[O:11])[c:12]3[c:13]([cH:14][c:15]([O:16][CH3:17])[c:18]([I:19])[c:20]3[OH:21])[o:22]2)[cH:23][cH:24]1>>[CH3:1][O:21][c:20]1[c:12]2[c:10](=[O:11])[cH:9][c:8](-[c:7]3[cH:6][cH:5][c:4]([O:3][CH3:2])[cH:24][cH:23]3)[o:22][c:13]2[cH:14][c:15]([O:16][CH3:17])[c:18]1[I:19],[CH3:2][O:3][c:4]1[cH:5][cH:6][c:7](-[c:8]2[cH:9][c:10](=[O:11])[c:12]3[c:13]([cH:14][c:15]([O:16][CH3:17])[c:18]([I:19])[c:20]3[OH:21])[o:22]2)[cH:23][cH:24]1.[OH:101][CH3:1].c1ccccc1[P:301](c2ccccc2)c3ccccc3.[O:302]=[C:303]([N:304]=[N:305]C(=O)OCC)OCC>>[CH3:1][O:21][c:20]1[c:12]2[c:10](=[O:11])[cH:9][c:8](-[c:7]3[cH:6][cH:5][c:4]([O:3][CH3:2])[cH:24][cH:23]3)[o:22][c:13]2[cH:14][c:15]([O:16][CH3:17])[c:18]1[I:19],Mitsunobu,"[(301, 305), ([305, 304], 304), (304, [304, 303]), ([303, 302], 302), (302, [302, 303]), ([303, 304], 21.1), ([21.1, 21], 21), (101, 301), ([301, 305], 305), (305, 101.1), ([101.1, 101], 101), (21, 1), ([1, 101], [101, 301])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][O:2][c:3]1[cH:4][cH:5][cH:6][c:7]([C:8](=[O:9])[c:10]2[cH:11][c:12]([Cl:13])[cH:14][cH:15][c:16]2[NH2:17])[c:18]1[CH3:19]>>[CH3:1][O:2][c:3]1[cH:4][cH:5][cH:6][c:7]([CH:8]([OH:9])[c:10]2[cH:11][c:12]([Cl:13])[cH:14][cH:15][c:16]2[NH2:17])[c:18]1[CH3:19],[CH3:1][O:2][c:3]1[cH:4][cH:5][cH:6][c:7]([C:8](=[O:9])[c:10]2[cH:11][c:12]([Cl:13])[cH:14][cH:15][c:16]2[NH2:17])[c:18]1[CH3:19].[BH4-:301].[CH3][OH1:302]>>[CH3:1][O:2][c:3]1[cH:4][cH:5][cH:6][c:7]([CH:8]([OH:9])[c:10]2[cH:11][c:12]([Cl:13])[cH:14][cH:15][c:16]2[NH2:17])[c:18]1[CH3:19],carbonyl_reduction,"[([301, 301.1], 8), ([8, 9], 9), (9, 302.1), ([302.1, 302], 302)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][CH2:2][S:3](=[O:4])(=[O:5])[c:6]1[cH:7][cH:8][c:9]([O:10][CH:11]2[CH2:12][CH2:13][C:14](=[O:15])[CH2:16][CH2:17]2)[c:18](-[c:19]2[cH:20][n:21]([CH3:22])[c:23](=[O:24])[c:25]3[nH:26][cH:27][cH:28][c:29]23)[cH:30]1>>[CH3:1][CH2:2][S:3](=[O:4])(=[O:5])[c:6]1[cH:7][cH:8][c:9]([O:10][C@H:11]2[CH2:12][CH2:13][C@@H:14]([OH:15])[CH2:16][CH2:17]2)[c:18](-[c:19]2[cH:20][n:21]([CH3:22])[c:23](=[O:24])[c:25]3[nH:26][cH:27][cH:28][c:29]23)[cH:30]1,[CH3:1][CH2:2][S:3](=[O:4])(=[O:5])[c:6]1[cH:7][cH:8][c:9]([O:10][CH:11]2[CH2:12][CH2:13][C:14](=[O:15])[CH2:16][CH2:17]2)[c:18](-[c:19]2[cH:20][n:21]([CH3:22])[c:23](=[O:24])[c:25]3[nH:26][cH:27][cH:28][c:29]23)[cH:30]1.[BH4-:301].[CH3][OH1:302]>>[CH3:1][CH2:2][S:3](=[O:4])(=[O:5])[c:6]1[cH:7][cH:8][c:9]([O:10][C@H:11]2[CH2:12][CH2:13][C@@H:14]([OH:15])[CH2:16][CH2:17]2)[c:18](-[c:19]2[cH:20][n:21]([CH3:22])[c:23](=[O:24])[c:25]3[nH:26][cH:27][cH:28][c:29]23)[cH:30]1,carbonyl_reduction,"[([301, 301.1], 14), ([14, 15], 15), (15, 302.1), ([302.1, 302], 302)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
